US07427612B2
rac-{5-Methanesulfonyl-2-[(tetrahydro-furan-2-ylmethyl)-amino]-phenyl}-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone
The title compound was prepared according to the procedure described for example 301 from (2-Iodo-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone (compound CK) and tetrahydrofurfurylamine (28% yield, MS (m/e): 512.4 (M+H, 100%)

reactant | (2-Iodo-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | IC1=C(C=C(C=C1)S(=O)(=O)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C19H18F3IN2O3S
reactant | tetrahydrofurfurylamine | C(C1CCCO1)N | C5H11NO
product | rac-{5-Methanesulfonyl-2-[(tetrahydro-furan-2-ylmethyl)-amino]-phenyl}-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | 28% yield | CS(=O)(=O)C=1C=CC(=C(C1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)NCC1OCCC1 | C24H28F3N3O4S
